### PR TITLE
[Merged by Bors] - feat: port of Data.Nat.Gcd.Basic

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
tracking cf9386b56953fb40904843af98b7a80757bbe7f9

Most of the code was already ported to Std. A couple of lemmas gave a linting error with simp normal form. I have commented out the simp attribute for this.

### CODE REVIEW

File: Mathlib/Data/Nat/Gcd/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,305 @@
...
+#align nat.not_coprime_zero_zero Nat.not_coprime_zero_zero
+
+-- @[simp]
+theorem coprime_one_left_iff (n : ℕ) : coprime 1 n ↔ True := by simp [coprime]
+#align nat.coprime_one_left_iff Nat.coprime_one_left_iff
+
+-- @[simp]
+theorem coprime_one_right_iff (n : ℕ) : coprime n 1 ↔ True := by simp [coprime]
+#align nat.coprime_one_right_iff Nat.coprime_one_right_iff
+
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Gcd/Basic.lean:218]:
```suggestion
```

File: Mathlib/Data/Nat/Gcd/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,305 @@
...
+  rw [pow_succ, Nat.coprime_mul_iff_left]
+  exact ⟨And.right, fun hab => ⟨hab.pow_left _, hab⟩⟩
+#align nat.coprime_pow_left_iff Nat.coprime_pow_left_iff
+
+@[simp]
+theorem coprime_pow_right_iff {n : ℕ} (hn : 0 < n) (a b : ℕ) :
+    Nat.coprime a (b ^ n) ↔ Nat.coprime a b := by
+  rw [Nat.coprime_comm, coprime_pow_left_iff hn, Nat.coprime_comm]
+#align nat.coprime_pow_right_iff Nat.coprime_pow_right_iff
+
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Gcd/Basic.lean:206]:
```suggestion
```

File: Mathlib/Data/Nat/Gcd/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,305 @@
...
+theorem coprime.dvd_mul_right {m n k : ℕ} (H : coprime k n) : k ∣ m * n ↔ k ∣ m :=
+  ⟨H.dvd_of_dvd_mul_right, fun h => dvd_mul_of_dvd_left h n⟩
+#align nat.coprime.dvd_mul_right Nat.coprime.dvd_mul_right
+
+theorem coprime.dvd_mul_left {m n k : ℕ} (H : coprime k m) : k ∣ m * n ↔ k ∣ n :=
+  ⟨H.dvd_of_dvd_mul_left, fun h => dvd_mul_of_dvd_right h m⟩
+#align nat.coprime.dvd_mul_left Nat.coprime.dvd_mul_left
+
+
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Gcd/Basic.lean:131]:
```suggestion
```

File: Mathlib/Data/Nat/Gcd/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,305 @@
...
+#align nat.lcm_dvd_iff Nat.lcm_dvd_iff
+
+#check Nat.coprime
+
+/-!
+### `coprime`
+
+See also `nat.coprime_of_dvd` and `nat.coprime_of_dvd'` to prove `nat.coprime m n`.
+-/
+
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Gcd/Basic.lean:110]:
```suggestion
```

File: Mathlib/Data/Nat/Gcd/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,305 @@
...
+Note that the global `is_coprime` is not a straightforward generalization of `nat.coprime`, see
+`nat.is_coprime_iff_coprime` for the connection between the two.
+
+-/
+
+
+namespace Nat
+
+/-! ### `gcd` -/
+
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Gcd/Basic.lean:25]:
```suggestion
```

**Review by ChrisHughes24 — COMMENTED** [review]
In future, commit the Mathlib3Port file without editing it so it is easier to compare.

**Comment by ChrisHughes24** [comment]
bors merge
